US04028376
Into a solution of 3-t-butyl-5-isoxazolyl isocyanate (2.84 g) in toluene (51 ml) is introduced methylamine (1.58 g) at room temperature. The mixture is stirred at room temperature for 2 hours and then at 50° C. for 4 hours. The reaction mixture is evaporated to remove the solvent, and the residue is recrystallized from ethyl acetate to give 1-methyl-3-(3-t-butyl-5-isoxazolyl)urea (2.80 g) as crystals melting at 195.0° to 196.0° C. (decomp.). The yield is 83.6%.

reactant | 3-t-butyl-5-isoxazolyl isocyanate | 2.84 g | C(C)(C)(C)C1=NOC(=C1)N=C=O | C8H10N2O2
reactant | methylamine | 1.58 g | CN | CH5N
solvent | toluene | 51 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-3-(3-t-butyl-5-isoxazolyl)urea | 2.80 g, yield is 83.6% | CNC(=O)NC1=CC(=NO1)C(C)(C)C | C9H15N3O2
